US05721234
8-Methylamino-4,7,8,9-tetrahydro-1H-cyclopenta[f]quinoxaline-2,3-dione
A mixture of N2 -methyl-2,5-diamino-6-bromo-4-nitroindane hydrochloride (17.2 g, 53 mmol) and 20% Pd/C (1 g) in methanol (250 mL) was shaken on a Parr hydrogenation apparatus under a hydrogen atmosphere (50 psi) for 6 h. After removing the catalyst, the filtrate was evaporated and the residue taken up in 2N HCl 250 mL) and oxalic acid (13 g, 0.1 mmol) and heated at 100° C. for 5 h. The mixture was cooled in a refrigerator overnight, and the resulting precipitate was collected by filtration and washed with water and then diethyl ether and dried to give the product (9.9 g).

reactant | N2 methyl-2,5-diamino-6-bromo-4-nitroindane hydrochloride | 53 mmol, 17.2 g | N#N.Cl.CC1C(CC2=C(C(=C(C=C12)Br)N)[N+](=O)[O-])N
reactant | oxalic acid | 0.1 mmol, 13 g | C(C(=O)O)(=O)O | C2H2O4
reactant | methanol | 250 mL | CO | CH4O
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 8-Methylamino-4,7,8,9-tetrahydro-1H-cyclopenta[f]quinoxaline-2,3-dione | 9.9 g | CNC1CC2=C(C=3NC(C(NC3C=C2)=O)=O)C1 | C12H13N3O2
